Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vomitting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hospitalized w four days of mailaise, intermittent 
palpitations and one day of emesis.  She has been in her usual 
state of health without recent hospitalization or antibiotics 
and began feeling unwell.  She then noted racing heart sensation 
present at rest, more notable at night, without chest pain or 
shortness of breath but with some anxiety.  Resolved on its own 
but recurred.  Decreased appetite developed early in the week 
and then she developed multiple episodes of vomiting today, 
inability to keep food/fluids down and one watery diarrhea this 
AM.  She came to ED where she had sinus tach 140s, normotension, 
lack of fever, lactemia 5 and hypokalemia, hypoMG.  Lactate 
improved with fluids and she also received PO K 40, Mg 2gm IV 
and several doses of valium for elevated CIWA.  

She consumes ___ glasses of wine most nights with dinner.  She 
tried a glass of wine today but that made her stomach worse.  
She has never had withdrawal or personal problems related to 
drinking.

ROS: she also noted swelling of her L ankle this AM and then 
some bruises over her toes, she denies any trauma or injuries.  
no cough, +mid back pain, no headache, neck stiffness, 
confusion, abdominal pain, dysura, +urinary frequency, no focal 
joit pains, +anxiety
 
Past Medical History:
s/p breast surgery

 
Social History:
___
Family History:
not pertinent to current management
 
Physical Exam:
98.2 150/94 pulse 105-114, 18 99ra
aox3, calm and attentive
clear lungs
regular pulse
soft abdomen
no audible cardiac rub or extra heart sounds
no asymmetry of ankles or feet
tiny bruise on ___ toe on L foot

 
Pertinent Results:
___ 03:30PM BLOOD WBC-13.1*# RBC-4.40 Hgb-14.7 Hct-42.7 
MCV-97 MCH-33.4* MCHC-34.4 RDW-12.8 RDWSD-46.1 Plt ___
___ 03:30PM BLOOD Neuts-79.6* Lymphs-11.9* Monos-7.1 
Eos-0.1* Baso-0.9 Im ___ AbsNeut-10.43* AbsLymp-1.56 
AbsMono-0.93* AbsEos-0.01* AbsBaso-0.12*
___ 03:30PM BLOOD Glucose-118* UreaN-6 Creat-0.8 Na-136 
K-3.0* Cl-92* HCO3-18* AnGap-29*
___ 03:30PM BLOOD Calcium-11.6* Phos-3.9 Mg-1.4*
___ 03:30PM BLOOD D-Dimer-254
___ 07:51PM BLOOD Lactate-2.3*
___ 03:44PM BLOOD Lactate-5.0*

EKG: personally reviewed sinus tachycardia 130s, no STE, 

___ 08:00AM BLOOD WBC-8.9 RBC-3.61* Hgb-12.1 Hct-36.7 
MCV-102* MCH-33.5* MCHC-33.0 RDW-13.1 RDWSD-49.1* Plt ___
___ 08:00AM BLOOD Glucose-106* UreaN-6 Creat-0.7 Na-137 
K-3.9 Cl-104 HCO3-21* AnGap-16
___ 08:00AM BLOOD ALT-53* AST-56* AlkPhos-34* TotBili-1.5
___ 07:51PM BLOOD Lactate-2.3*
 
Brief Hospital Course:
___ with suspected acute gastroenteritis causing electrolyte 
disturbance and acidosis as well as tachycardia.  

#Gastroenteritis:   Symptoms resolved in hospital, norovirus 
negative.

#Tachycardia: resolved with hydration

#Alcohol use: She did not score on CIWA

# Abnormal LFTs:  Advised her to f/u with PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Norethindrone-Estradiol 1 TAB PO DAILY 

 
Discharge Medications:
1. Norethindrone-Estradiol 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Viral gastroenteritis
2.  Tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with vomiting and diarrhea consistent with a 
viral gastroenteritis.  You have improved greatly with fluids.  
Please continue to follow a bland diet at home, and avoid dairy 
for the next few days.  Thus far, we have not found bacteria in 
your urine, so we are stopping antibiotics for a urinary tract 
infection.  Also, your blood pressures were slightly elevated in 
the hospital - please discuss this with Dr ___.  You also had 
very slight elevation in liver function tests which you can also 
discuss with her.
 
Followup Instructions:
___